US04658013
To a mixture of sodium hydride (50%, 9.64 g., prewashed with tetrahydrofuran to remove mineral oil) and tetrahydrofuran (120 ml.) were added dropwise with stirring first a filtered solution of N-benzyloxycarbonyl-O-benzyl-L-tyrosine (16.22 g.) in tetrahydrofuran (50 ml.), then methyl iodide (20 ml.), then tetrahydrofuran (10 ml.). The resulting mixture was stirred overnight at room temperature. Ethyl acetate (200 ml.) was added, then water (6 ml.) dropwise, and stirring was continued for one hour. Charcoal was added and the mixture was filtered. Water (70 ml.) and ether were added, affording a pale yellow solid which melted upon drying at 65° C. and resolidified upon cooling (15.72 g., m.r. 88°-90° C.). Recrystallization of the solid from ethyl acetate (12 ml., 5 ml. used for washing) afforded N-benzyloxycarbonyl-N-methyl-O-benzyl-L-tyrosine (14.13 g.; m.r. 90°-91.5° C.).

reactant | sodium hydride | 9.64 g | [H-].[Na+]
reactant | N-benzyloxycarbonyl-O-benzyl-L-tyrosine | 16.22 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O | C24H23NO5
reactant | methyl iodide | 20 ml | CI | CH3I
reactant | Charcoal | C | CH4
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | water | 6 ml | O | H2O
solvent | Ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | N-benzyloxycarbonyl-N-methyl-O-benzyl-L-tyrosine | 14.13 g | C(C1=CC=CC=C1)OC(=O)N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)O)C | C25H25NO5
